US05294734
45.0 g (0.25 mol) of 4-acetoxypentanoic acid chloride are dissolved in 450 ml of abs. tetrahydrofuran. Then 31.9 ml (0.27 mol) of 2,6-lutidine and 9 g of 5% Pd/C are added and hydrogenation is carried out for 1 hour at 10°-15° C. Upon cessation of hydrogenation, the catalyst and the 2,6-lutidine are removed by filtration and the filtrate is concentrated by evaporation. Distillation of the residue gives 4-acetoxypentanal as a colourless liquid of b.p.34 98°-100° C.

reactant | 4-acetoxypentanoic acid chloride | 0.25 mol, 45.0 g | C(C)(=O)OC(CCC(=O)Cl)C | C7H11ClO3
reactant | 2,6-lutidine | 0.27 mol, 31.9 ml | N1=C(C=CC=C1C)C | C7H9N
catalyst | Pd/C | 9 g | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-acetoxypentanal | C(C)(=O)OC(CCC=O)C | C7H12O3
